US04327213
Pyrazineacetonitrile (32 g), prepared as described in British Patent Specification No. 1 021 397, was dissolved in glacial acetic acid (250 ml). The solution was stirred and 1.2 equivalents of sodium nitrite (22.3 g) were added in small portions, while the temperature was kept under 20° C. After the addition, the reaction mixture was stirred at room temperature for another two hours. The title compound separated partly from the reaction mixture. On evaporation of the solvent under reduced pressure, a solid was obtained which on recrystallization from hot water yielded α-hydroxyiminopyrazineacetonitrile (35 g, 88%). Melting point >192° C. (dec.).

reactant | Pyrazineacetonitrile | 32 g | N1=C(C=NC=C1)CC#N | C6H5N3
reactant | sodium nitrite | 22.3 g, 1.2 equivalents | N(=O)[O-].[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | α-hydroxyiminopyrazineacetonitrile | 35 g, 88% | ON=C(C#N)C1=NC=CN=C1 | C6H4N4O
